US06706744B2
Preparation of methyl 3-[(4-formylbenzoyl)amino]propionate as Starting Material
To a solution of the 4-formylbenzoic acid in a suitable solvent such as dichloromethane, DMF or THF was added diisopropylethylamine (3 eq) and 3-[(dimethyliminium)-(dimethylamino)methyl]-1,2,3-benzotriazol-1-ium-1-olate hexafluorophosphate (HBTU) (1.1 eq). The reaction was allowed to stir for 30 min before ethyl or methyl-3-aminopropionate hydrochloride (1.1 eq) was added. The solution was stirred at room temperature for 4 hours. The solvents were evaporated under reduced pressure. The residue was taken up in ethyl acetate and 1N hydrochloric acid. The organic layer was separated and washed with water (2×), aqueous sodium hydrogen carbonate (3×), brine (2×), dried over magnesium sulphate and concentrated to give the desired product.

reactant | 4-formylbenzoic acid | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | diisopropylethylamine | 3 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | THF | C1CCOC1 | C4H8O
product | methyl 3-[(4-formylbenzoyl)amino]propionate | C(=O)C1=CC=C(C(=O)NCCC(=O)OC)C=C1 | C12H13NO4
